US07728025B2
(Step 2) Production of N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-4-hydroxybutanoyl)-3-fluorophenyl)pyridine-2-carboxamide
3.1 ml of n-butyl lithium (2.66 M hexane solution) was dropwise added to a tetrahydrofuran (100 ml) solution of 1.1 g of N-(4-bromo-3-fluorophenyl)pyridine-2-carboxamide at −78° C., and the reaction liquid was stirred at the same temperature for 15 minutes. 1.21 g of 3-((t-butyl(dimethyl)silyl)oxy)dihydrofuran-2 (3H)-one was added to the reaction liquid, and the reaction liquid was stirred at the same temperature for 1 hour. Aqueous saturated sodium bicarbonate solution was added to the reaction liquid at the same temperature, then heated up to room temperature and extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=100/1) to obtain the entitled compound as a colorless oily substance.

reactant | n-butyl lithium | 2.66 M, 3.1 ml | C(CCC)[Li]
reactant | N-(4-bromo-3-fluorophenyl)pyridine-2-carboxamide | 1.1 g | BrC1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C12H8BrFN2O
reactant | 3-((t-butyl(dimethyl)silyl)oxy)dihydrofuran-2 (3H)-one | 1.21 g | [Si](C)(C)(C(C)(C)C)OC1C(OCC1)=O | C10H20O3Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-4-hydroxybutanoyl)-3-fluorophenyl)pyridine-2-carboxamide | [Si](C)(C)(C(C)(C)C)OC(C(=O)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F)CCO | C22H29FN2O4Si
